US07176224B2
A mixture of 2-(3,4-difluoro-phenoxy)-3-(4-hydroxyphenyl)-2-methyl-propionic acid ethyl ester (0.030 mmol) (see Ex. 45, Part C), toluene-4-sulfonic acid 2-(5-methyl-2-(4-thiophen-2-yl-phenyl)-oxazol-4-yl)-ethyl ester (0.030 mmol) (see Ex. 3, Part B) and 325 mesh K2CO3 (0.084 g, 0.60 mmol) in ethanol (2 mL) was heated to reflux for 24 h under N2. Aqueous 5N NaOH (0.5 mL) and additional ethanol (1 mL) was added to the reaction mixture and it was heated at reflux for an additional 2 h. The reaction was cooled and the solvent removed in vacuo. The residue was acidified with aqueous 1 N HCl (5 mL), extracted with water and CH2Cl2 and the organic layer dried by passing it through a Varian Chem Elut 1003 cartridge. The solvent was removed in vacuo to give 2-(3,4-difluoro-phenoxy)-2-methyl-3-(4-{2-[5-methyl-2-(4-thiophen-2-yl-phenyl)-oxazol-4-yl]-ethoxy}-phenyl)-propionic acid. 1H NMR (400 MHz, CDCl3) δ 7.99 (d, 2H, J=8.8 Hz), 7.98 (bs, 1H), 7.67 (d, 2H, J=8.8 Hz), 7.42 (dd, 1H, J=4.0, 1.0 Hz), 7.36 (d, 1H, J=4.8 Hz), 7.17 (d, 2H, J=8.8 Hz), 7.12 (dd, 1H, J=4.8, 4.0 Hz), 7.00 (q, 1H, J=9.2 Hz), 6.83 (d, 2H, J=8.8 Hz), 6.76 (ddd, 1H, J=11.6, 6.8, 3.2 Hz), 6.63–6.59 (m, 1H), 4.21 (t, 2H, J=6.6 Hz), 3.23 and 3.10 (d of ABq, 2H, J=14.2 Hz), 3.07 (t, 2H, J=6.6 Hz), 2.43 (s, 3H), 1.38 (s, 3H).

reactant | 2-(3,4-difluoro-phenoxy)-3-(4-hydroxyphenyl)-2-methyl-propionic acid ethyl ester | 0.030 mmol | C(C)OC(C(CC1=CC=C(C=C1)O)(C)OC1=CC(=C(C=C1)F)F)=O | C18H18F2O4
reactant | toluene-4-sulfonic acid 2-(5-methyl-2-(4-thiophen-2-yl-phenyl)-oxazol-4-yl)-ethyl ester | 0.030 mmol | CC1=C(N=C(O1)C1=CC=C(C=C1)C=1SC=CC1)CCOS(=O)(=O)C1=CC=C(C=C1)C | C23H21NO4S2
reactant | K2CO3 | 0.60 mmol, 0.084 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NaOH | 5N, 0.5 mL | [OH-].[Na+]
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 2-(3,4-difluoro-phenoxy)-2-methyl-3-(4-{2-[5-methyl-2-(4-thiophen-2-yl-phenyl)-oxazol-4-yl]-ethoxy}-phenyl)-propionic acid | FC=1C=C(OC(C(=O)O)(CC2=CC=C(C=C2)OCCC=2N=C(OC2C)C2=CC=C(C=C2)C=2SC=CC2)C)C=CC1F | C32H27F2NO5S
